US06166006
To a solution of nicke l bromide (44 mg) in methanol (4 ml)/THF (4 ml) was added sodium boro hydride (40 mg), and the mixture was stirred. To the mixture was added 2-[(4-nitrophenyl)methylamino]pyridine (0.92 g) and then sodium boro hydride (414 mg), and the mixture was stirred at room temperature for 1 hour. To the mixture was added nickel bromide (44 mg)and sodium boro hydride (454 mg), and the mixture was stirred at room temperature for 2 hours. Insoluble materials were filtered off with sellaite, and to the filtrate was added sodium bicarbonate solution. The mixture was extracted with ethyl acetate and washed with brine. The extract was dried (anhydrous magnesium sulfate) and concentrated, and the residue was purified twice with silica gel column chromatography (ethyl acetate/hexane=1/1) to give 2-[(4-aminophenyl)methylamino]pyridine (369 mg) as pale red solid.

reactant | THF | 4 ml | C1CCOC1 | C4H8O
reactant | sodium boro hydride | 40 mg | [BH4-].[Na+]
reactant | 2-[(4-nitrophenyl)methylamino]pyridine | 0.92 g | [N+](=O)([O-])C1=CC=C(C=C1)CNC1=NC=CC=C1 | C12H11N3O2
reactant | sodium boro hydride | 414 mg | [BH4-].[Na+]
reactant | sodium boro hydride | 454 mg | [BH4-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
catalyst | nicke l bromide | 44 mg | [Ni](Br)Br
catalyst | nickel bromide | 44 mg | [Ni](Br)Br
product | 2-[(4-aminophenyl)methylamino]pyridine | 369 mg | NC1=CC=C(C=C1)CNC1=NC=CC=C1 | C12H13N3
